US04093812
Add a solution of 0.25 g of 4-amino-3-(5-nitro-2-furyl)-1-phenylpyrazole hydrochloride in 2 ml of pyridine dropwise over a period of from 1 to 2 hours to a solution of 0.22 g of sodium nitrite in 3 ml of concentrated sulfuric acid and 1.75 ml of water at 0° C. Stir the resulting reaction mixture for 0.5 hour, and then precipitate the diazonium salt by adding ice and water to the reaction mixture. Add the precipitate to a heated (90° C) solution of 300 mg of potassium cyanide and 200 ml of copper(I)cyanide in 20 ml of water. Stir the prepared admixture for 15 minutes at 90° C, cool down, draw off the formed precipitate and chromatograph with methylene chloride on silica gel to obtain 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carbonitrile [m.p. 190° to 192° C].

reactant | 4-amino-3-(5-nitro-2-furyl)-1-phenylpyrazole hydrochloride | 0.25 g | Cl.NC=1C(=NN(C1)C1=CC=CC=C1)C=1OC(=CC1)[N+](=O)[O-]
reactant | sodium nitrite | 0.22 g | N(=O)[O-].[Na+]
reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 1.75 ml | O | H2O
product | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carbonitrile | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C#N)C1=CC=CC=C1 | C14H8N4O3
